US04134898
1.93 G. (7 mmol) of 3-ethoxycarbonylmethyl-4-hydroxy-2H-thieno[2,3-e]-1,2-thiazine 1,1-dioxide are dissolved in 4 ml. of absolute dimethylformamide and added dropwise during 30 minutes at 0° C. to a stirred suspension of 0.185 g. (7.7 mmol) of sodium hydride in 2 ml. of absolute dimethylformamide. The mixture is stirred for a further 1 hour at room temperature. There are then added firstly 0.53 ml. (1.2 g.; 8.45 mmol) of methyl iodide and, after 30 minutes, a further 0.25 ml. (0.565 g; 4 mmol) of methyl iodide and the mixture is allowed to react for 1 hour. After distillation of the solvent, the residue is taken up in 30 ml. of 0.5-N hydrochloric acid and 30 ml. of methylene chloride, the organic phase is separated and the aqueous layer is back-extracted twice with a small amount of methylene chloride. The combined organic extracts are dried over sodium sulfate and evaporated. The crystalline residue is digested with a small amount of cold ethanol. There is obtained 3-ethoxycarbonylmethyl-4-hydroxy-2-methyl-2H-thieno[2,3-e]1,2-thiazine 1,1-dioxide of melting point 161°-163° C. (crystal transformation at 151°-152° C.).

reactant | 3-ethoxycarbonylmethyl-4-hydroxy-2H-thieno[2,3-e]-1,2-thiazine 1,1-dioxide | 7 mmol | C(C)OC(=O)CC=1NS(C2=C(C1O)SC=C2)(=O)=O | C10H11NO5S2
reactant | sodium hydride | 7.7 mmol | [H-].[Na+]
reactant | methyl iodide | 8.45 mmol, 1.2 g | CI | CH3I
reactant | methyl iodide | 4 mmol, 0.565 g | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-ethoxycarbonylmethyl-4-hydroxy-2-methyl-2H-thieno[2,3-e]1,2-thiazine 1,1-dioxide | C(C)OC(=O)CC=1N(S(C2=C(C1O)SC=C2)(=O)=O)C | C11H13NO5S2
